US07323475B2
a) 1-Bromo-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester
2 g (7.7 mmol) of 1,4-Dihydroxy-isoquinoline-3-carboxylic acid butyl ester (from Example D-20b) dissolved in 100 ml of acetonitrile. 15.4 g (53.6 mmol) of phosphorous oxybromide added to solution and mixture stirred at 80° C. for 64 h. 100 ml of water was added to mixture, and mixture was removed from heat. Mixture was partitioned between ethyl acetate and water. Two phases were separated and the aqueous layer was extracted with ethyl acetate. Organic layers were combined, washed with brine, dried over magnesium sulfate, filtered, and evaporated. Residue was purified by silica gel flash chromatography to give 0.1 g (0.3 mmol) of product. 1H NMR (200 MHz, CDCl3) δ 11.89 (s, 1H), 8.41 (m, 1H), 8.25 (m, 1H), 7.84 (m, 2H), 4.49 (t, J=7.0 Hz, 2H), 1.87 (m, 2H), 1.47 (m, 2H), 1.00 (t, J=7.2 Hz, 3H).

reactant | 1,4-Dihydroxy-isoquinoline-3-carboxylic acid butyl ester | 7.7 mmol, 2 g | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)O | C14H15NO4
reactant | phosphorous oxybromide | 53.6 mmol, 15.4 g | P(=O)(Br)(Br)Br | Br3OP
reactant | water | 100 ml | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-Bromo-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 0.3 mmol, 0.1 g | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)Br | C14H14BrNO3
